US09314023B2
A mixture of 2-chloro-4-hydrazinophenol hydrochloride salt 3.0 g, 3-methyl-2,4-pentanedione, ethanol 100 ml was stirred with heating under reflux for twelve hours. The solvent was distilled off and thereto was added ethyl acetate 200 ml, and the resulting mixture was stirred for one hour. The precipitates was filtered and was washed with hexane, and was then dried under reduced pressure to give 2-chloro-4-(3,4,5-trimethyl-pyrazol-1-yl)-phenol 3.3 g.

reactant | 2-chloro-4-hydrazinophenol hydrochloride salt | 3.0 g | Cl.ClC1=C(C=CC(=C1)NN)O
reactant | 3-methyl-2,4-pentanedione | CC(C(C)=O)C(C)=O | C6H10O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-chloro-4-(3,4,5-trimethyl-pyrazol-1-yl)-phenol | 3.3 g | ClC1=C(C=CC(=C1)N1N=C(C(=C1C)C)C)O | C12H13ClN2O
